US07906546B2
At 0° C. 170 mg (0.5 mmol, 0.2 eq) of Cs2CO3 were added to a stirred solution of 760 mg (2.6 mmol) of 2-benzenesulfonylmethyl-5-trifluoromethyl-[1,3,4]oxadiazole in 30 mL of THF. After 45 min, 0.23 mL (2.9 mmol) of 2-cyclopenten-1-one were added. The reaction mixture was stirred at RT for 15 hours, diluted with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel with heptane/EtOAc 1:1 yielded 0.88 mg (90%) of 3-[benzenesulfonyl-(5-trifluoromethyl-[1,3,4]oxadiazol-2-yl)-methyl]-cyclopentanone as colorless foam, 375 (MH+).

reactant | Cs2CO3 | 0.5 mmol, 170 mg, 0.2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-benzenesulfonylmethyl-5-trifluoromethyl-[1,3,4]oxadiazole | 2.6 mmol, 760 mg | C1(=CC=CC=C1)S(=O)(=O)CC=1OC(=NN1)C(F)(F)F | C10H7F3N2O3S
reactant | 2-cyclopenten-1-one | 2.9 mmol, 0.23 mL | C1(C=CCC1)=O | C5H6O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-[benzenesulfonyl-(5-trifluoromethyl-[1,3,4]oxadiazol-2-yl)-methyl]-cyclopentanone | 0.88 mg, 90% | C1(=CC=CC=C1)S(=O)(=O)C(C1CC(CC1)=O)C=1OC(=NN1)C(F)(F)F | C15H13F3N2O4S
